US04263291
2-Methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid (syn isomer) (350 mg.) and 7-amino-3-[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (600 mg.) were reacted according to similar manners to those of Examples 12 and 15 to give 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (230 mg.).

reactant | 2-Methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid | 350 mg | CON=C(C(=O)O)C=1N=NSC1 | C5H5N3O3S
reactant | 7-amino-3-[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 600 mg | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)O)C1=O | C13H19N7O3S2
product | 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 230 mg | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)O)C1=O)C=1N=NSC1 | C18H22N10O5S3
